US06794109B2
Preparation of tert-Butyl [2,2,2-Trifluoro-1-trifluoromethyl-1-(4-vinylphenyl)ethoxy]acetate
A 1M solution of t-BuOK in THF (25.00 mL, 25.00 mmol) was slowly added to a solution of 1,1,1,3,3,3-Hexafluoro-2-(4-vinylphenyl)-2-propanol (5.48 g, 20.30 mmol) in THF (25 mL). The reaction mixture was allowed to stir at room temperature for 30 min, then cooled to −78° C. using a dry ice /acetone bath followed by the addition of t-butyl bromoacetate (3.75 mL, 25.40 mmol). The reaction mixture was allowed to slowly warm to room temperature overnight, concentrated, diluted with hexane, filtered through celite, and concentrated to provide 7.96 g of a reddish-yellow oil. This material was purified by column chromatography on silica gel using 50:1 hexane/ethyl acetate to provide 6.44 g (82%) of a colorless oil; 1H NMR (CDCl3) δ 7.60 (d, 2ArH), 7.50 (d, 2ArH), 6.75 (dd, CH═), 5.85 (dd, ═CHH), 5.40 (dd, ═CHH), 4.05 (s, CH2), 1.50 (s, t-Bu).

reactant | t-BuOK | CC(C)(C)[O-].[K+]
reactant | 1,1,1,3,3,3-Hexafluoro-2-(4-vinylphenyl)-2-propanol | 20.30 mmol, 5.48 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)C=C)(F)F | C11H8F6O
reactant | t-butyl bromoacetate | 25.40 mmol, 3.75 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25.00 mmol, 25.00 mL | C1CCOC1 | C4H8O
product | tert-Butyl [2,2,2-Trifluoro-1-trifluoromethyl-1-(4-vinylphenyl)ethoxy]acetate | 7.96 g | FC(C(OCC(=O)OC(C)(C)C)(C1=CC=C(C=C1)C=C)C(F)(F)F)(F)F | C17H18F6O3
